US04829067
A mixture of 3.0 g of methyl 3-formyl-2-hydroxybenzoate, 3.31 g of t-butyl chloroacetate, 12.0 g of potassium carbonate and 40 ml of dimethylformamide is heated at 70° C. for 2.5 hours. After cooling, the reaction mixture is poured into water and the aqueous mixture is extracted with ethyl acetate. The extract is washed with an aqueous saturated sodium chloride solution, dried and evaporated to remove solvent. The residue is dissolved in trifluoroacetic acid and the solution is stirred at room temperature for 30 minutes. The reaction mixture is concentrated under reduced pressure and the residue is treated with ether to give 2.09 g of (2-methoxycarbonyl-6-formylphenoxy)acetic acid as pale yellow powder.

reactant | methyl 3-formyl-2-hydroxybenzoate | 3.0 g | C(=O)C=1C(=C(C(=O)OC)C=CC1)O | C9H8O4
reactant | t-butyl chloroacetate | 3.31 g | ClCC(=O)OC(C)(C)C | C6H11ClO2
reactant | potassium carbonate | 12.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (2-methoxycarbonyl-6-formylphenoxy)acetic acid | 2.09 g | COC(=O)C1=C(OCC(=O)O)C(=CC=C1)C=O | C11H10O6
